US07592363B2
N-(1H-INDOL-5-YLMETHYL)-3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]ANILINE
A solution of ({3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}amine (0.1 g, 0.24 mmol), indole 5-carboxaldehyde (0.035 g, 0.24 mmol), sodium formate (0.189 g, 3 mmol) and sodium cyanoborohydride (0.188 g, 3 mmol) in methanol (3 mL) was heated at 60° C. overnight. The reaction mixture was cooled, and concentrated in vacuo. The residue was partitioned with ethyl acetate and ammonium hydroxide. The organic phase was concentrated in vacuo to afford crude product, which was purified by flash chromatography (silic gel 60, methylene chloride) to afford the title compound (0.031 g, 24%).

reactant | {3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}amine | 0.24 mmol, 0.1 g | FC1=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=CC2)N)C(F)(F)F)C(=CC(=C1)F)F | C21H13F6N3
reactant | indole 5-carboxaldehyde | 0.24 mmol, 0.035 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | sodium formate | 3 mmol, 0.189 g | C(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 3 mmol, 0.188 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | N-(1H-INDOL-5-YLMETHYL)-3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]ANILINE | 0.031 g, 24% | N1C=CC2=CC(=CC=C12)CNC1=CC(=CC=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C30H20F6N4
